US07674815B2
To a solution of 446 μl (5.80 mmol) of DMF in 5 ml trichloroethylene were added 449 μl (4.90 mmol) of phosphorus oxychloride at 4° C. The mixture was then allowed to warm to RT and a solution of 500 mg (4.46 mmol) of 3-methyl-cyclohexanone in 5 ml trichloroethylene was added dropwise. After heating to 60° C. for 4 h, the reaction mixture was cooled to RT and 10 ml of a cold sodium acetate solution were added. The organic layer was separated and the aqueous phase was extracted with dichloromethane. The combined organic layers were then washed with brine, dried (MgSO4) and concentrated to yield 769 mg of crude 2-chloro-4-methyl-cyclohex-1-enecarbaldehyde (containing 10% of 2-chloro-6-methyl-cyclohex-1-enecarbaldehyde) as a light yellow oil.

reactant | DMF | 5.80 mmol, 446 μl | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 4.90 mmol, 449 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-methyl-cyclohexanone | 4.46 mmol, 500 mg | CC1CC(CCC1)=O | C7H12O
reactant | sodium acetate | 10 ml | C(C)(=O)[O-].[Na+]
solvent | trichloroethylene | 5 ml | ClC=C(Cl)Cl | C2HCl3
solvent | trichloroethylene | 5 ml | ClC=C(Cl)Cl | C2HCl3
product | 2-chloro-4-methyl-cyclohex-1-enecarbaldehyde | 769 mg, 10% | ClC1=C(CCC(C1)C)C=O | C8H11ClO
